US06747023B1
Ethyl (pyridin-4-yl)glyoxylate hydrate
Ethyl bromo(pyridin-4-yl)acetate hydrochloride (2.05 g) was dissolved in N,N-dimethylformamide (10 ml) at room temperature, followed by the addition of sodium azide (1.43 g). The resulting mixture was stirred for 30 minutes. After the addition of water and stirring, the insoluble matter was filtered off and the filtrate was concentrated. The residue was extracted with diethyl ether and saturated aqueous NaCl solution. The organic layer thus obtained was dried over anhydrous magnesium sulfate. The filtrate was concentrated and the residue was crystallized from methylene chloride, whereby the title compound (yellow powder, 300 mg) was obtained.

reactant | Ethyl bromo(pyridin-4-yl)acetate hydrochloride | 2.05 g | Cl.BrC(C(=O)OCC)C1=CC=NC=C1
reactant | sodium azide | 1.43 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl (pyridin-4-yl)glyoxylate hydrate | O.N1=CC=C(C=C1)C(C(=O)OCC)=O | InChI=1S/C9H9NO3.H2O/c1-2-13-9(12)8(11)7-3-5-10-6-4-7;/h3-6H,2H2,1H3;1H2
